US07705030B2
Preparation of 1-(cyclopropylmethoxy)-3-ethynylbenzene
To a solution of 3-ethynylphenol (1.18 g, 10.0 mmol) in acetone (30 mL) is added (bromomethyl)cyclopropane (1.02 mL, 10.0 mmol), sodium iodide (0.75 g, 5.0 mmol) and CS2CO3 (6.52 g, 20.0 mmol) at room temperature. After refluxing over night, the reaction mixture is cooled, diluted with Et2O (300 mL) and pass through a thin layer of silica gel. The solution is concentrated. The crude material is purified by chromatography (silica gel, EtOAc/hexane:1/99) to give the title compound (1.45 g, 84%) as an oil. MS (+) APPI: 173 (M+H)+.

reactant | 3-ethynylphenol | 10.0 mmol, 1.18 g | C(#C)C=1C=C(C=CC1)O | C8H6O
reactant | (bromomethyl)cyclopropane | 10.0 mmol, 1.02 mL | BrCC1CC1 | C4H7Br
reactant | sodium iodide | 5.0 mmol, 0.75 g | [I-].[Na+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
solvent | Et2O | 300 mL | CCOCC | C4H10O
product | 1-(cyclopropylmethoxy)-3-ethynylbenzene | 1.45 g, 84% | C1(CC1)COC1=CC(=CC=C1)C#C | C12H12O
